US04607041
Fluoroacetyl chloride (7.1 g, 73 mmoles) was added dropwise to a stirred solution of 2,2-dimethyl-1,3-dioxane-4,6-dione (10.65 g, 74 mmoles) and pyridine (16.85 ml, 210 mmoles) in methylene chloride (75 ml) keeping the temperature below 10°. After stirring for 16 hours at room temperature the solution was diluted with methylene chloride (100 ml and then washed with 1N hydrochloric acid (200 ml) and water (100 ml). The organic extract was dried (Na2SO4) and the solvent removed in vacuo. The residue was dissolved in methanol (150 ml) and the solution heated at reflux for 2.5 hours. Removal of the solvent followed by distillation at 60°-80° (bath temp)/14 mm Hg gave methyl 4-fluoro-3-oxobutanoate (6.4 g).

reactant | Fluoroacetyl chloride | 73 mmoles, 7.1 g | FCC(=O)Cl | C2H2ClFO
reactant | 2,2-dimethyl-1,3-dioxane-4,6-dione | 74 mmoles, 10.65 g | CC1(OC(CC(O1)=O)=O)C | C6H8O4
reactant | pyridine | 210 mmoles, 16.85 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-fluoro-3-oxobutanoate | 6.4 g | FCC(CC(=O)OC)=O | C5H7FO3
